US04395551
S-[(3,4-Dihydro-2-(1-methylethyl)-4-oxo-6-pyrimidinyl)methyl] O,O-dimethyl phosphorodithioate
The intermediate, 6-(chloromethyl)-2-(1-methylethyl)-4(1H)pyrimidinone, was prepared according to Swiss patent 524617 from ethyl 4-chloroacetoacetate and isobutyramidine. m.p. 123°-125°. The intermediate chloromethyl compound (25 g) was stirred with 50 ml methanol at room temperature. To this mixture was added, dropwise, a solution of 25 g ammonium dimethyl phosphorodithioate dissolved in 500 ml methanol. The mixture was then heated to reflux for 6 hours, then the solvent was evaporated under reduced pressure yielding a solid. The solid was dissolved in dichloromethane and washed with water, separated, dried, and the solvent was evaporated. The remaining solid was recrystallized from toluene; yield: 15.9 g, m.p. 89°-93°.

reactant | 6-(chloromethyl)-2-(1-methylethyl)-4(1H)pyrimidinone | ClCC1=CC(N=C(N1)C(C)C)=O | C8H11ClN2O
reactant | ethyl 4-chloroacetoacetate | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | isobutyramidine | C(C(C)C)(=N)N | C4H10N2
reactant | ammonium dimethyl phosphorodithioate | 25 g | P(OC)(OC)(=S)[S-].[NH4+]
solvent | methanol | 500 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | S-[(3,4-Dihydro-2-(1-methylethyl)-4-oxo-6-pyrimidinyl)methyl] O,O-dimethyl phosphorodithioate | P(OC)(OC)(=S)SCC1=CC(NC(=N1)C(C)C)=O | C10H17N2O3PS2
